US08957074B2
Following general N—C coupling procedure 1, 5-bromo-2-nitropyridine and 1,4-diazabicyclo[3.2.2]nonan-3-one were combined and gave 4-(6-nitropyridin-3-yl)-1,4-diazabicyclo[3.2.2]nonan-3-one (418 mg) in 64% yield.

reactant | 5-bromo-2-nitropyridine | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | 1,4-diazabicyclo[3.2.2]nonan-3-one | N12CC(NC(CC1)CC2)=O | C7H12N2O
product | 4-(6-nitropyridin-3-yl)-1,4-diazabicyclo[3.2.2]nonan-3-one | 418 mg, 64% yield | [N+](=O)([O-])C1=CC=C(C=N1)N1C(CN2CCC1CC2)=O | C12H14N4O3
